US06545135B2
2,3,4,6-Tetra-O-benzyl-1-O-(1-hydroxy-hex-6-yl)-glucopyranose
A mixture that consists of 54.1 g (100 mmol) of 2,3,4,6-tetra-O-benzylglucopyranose, 1.39 g (5 mmol) of tetrabutylammonium chloride and 24 g (600 mmol) of fine-powder sodium hydroxide in 350 ml of dichloromethane is cooled to 10° C. At 10° C., 41.3 g (140 mmol) of 1-(dimethyl-tert-butylsilyloxy)-6-bromohexane, dissolved in 100 ml of dichloromethane, is added in drops over 50 minutes while being stirred vigorously. It is stirred for three hours at 10° C. 350 ml of dichloromethane is added, solid is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The residue is taken up in 350 ml of acetonitrile, and 52.3 g (200 ml) of tetrabutylammonium fluoride is added (as a monohydrate). It is stirred for three hours at 50° C. The solution is evaporated to the dry state, and the residue is chromatographed on silica gel (mobile solvent: dichloromethane/ethanol=20:1).

reactant | 2,3,4,6-tetra-O-benzylglucopyranose | 100 mmol, 54.1 g | C(C1=CC=CC=C1)O[C@H]1C(O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H36O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-(dimethyl-tert-butylsilyloxy)-6-bromohexane | 140 mmol, 41.3 g | C[Si](OCCCCCCBr)(C(C)(C)C)C | C12H27BrOSi
catalyst | tetrabutylammonium chloride | 5 mmol, 1.39 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 2,3,4,6-Tetra-O-benzyl-1-O-(1-hydroxy-hex-6-yl)-glucopyranose | C(C1=CC=CC=C1)O[C@H]1C(OCCCCCCO)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C40H48O7
